Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath and cough
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___ is a ___ year old man with a history of male
bipolar disorder noncompliant with medications, who presents 
with
dyspnea. Patient endorses 3 months of dyspnea, that he 
attributes
to ___ fire that he set. He reports worsening of his dyspnea
starting yesterday, especially with exertion. Endorses cough
productive of some sputum. Denies chest pain, fevers, chills,
nausea, abdominal pain, emesis, diarrhea, constipation.

Patient was recently in ___ and reports he was hospitalized
for 7 days for evaluation of his dyspnea, but they did not start
him on any medications. He states that he was told that only 33
percent of his lungs are working properly and had an "air 
bubble"
in his lung and needed to be seen for further evaluation when he
returned to the ___.

Of note, per ED report, patient's wife is concerned about him 
not
taking his bipolar medications recently and having some erratic
behavior. Patient's wife states that he attacked a stranger
outside of a store in ___ because he was convinced that she
was having an affair with him. He locked her in a car and was
threatening to hurt her. She states that he has not slept for 5
days. She states that if he finds out this is about his bipolar
disorder that he will leave. Patient states that he used to have
bipolar disorder, but does not need his medications anymore. 
 
Past Medical History:
Bipolar disorder
Hypersensitivity Pneumonitis
 
Social History:
___
Family History:
No known psychiatric history
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=================================
VITALS: Temp: 97.7 PO BP: 125/81 R Lying HR: 72 RR: 20 O2 sat:
95% O2 delivery: Ra 
GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Physiologically split S2.
No murmurs/rubs/gallops.
LUNGS: Faint rhonchi bilaterally. No wheezes or rales. No
increased work of breathing.
ABDOMEN: Normal bowel sounds. Soft, non distended, non-tender to
deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm. No edema. 
NEUROLOGIC: Alert. Calm. Conversationally appropriate. CN2-12
intact. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.

DISCHARGE PHYSICAL EXAM:
==================================
VITALS: 24 HR Data (last updated ___ @ 746)
    Temp: 97.5 (Tm 98.0), BP: 106/66 (95-119/55-74), HR: 61 
(61-77), RR: 18 (___), O2 sat: 97% (96-97), O2 delivery: Ra 

GENERAL: Lying comfortably in bed, in no acute distress.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Normal S1/S2. No
murmurs/rubs/gallops.
LUNGS: Lungs clear to auscultation bilaterally, no wheezes or 
rales. No increased work of breathing
ABDOMEN: Normal bowel sounds. Soft, non distended, non-tender to
deep palpation in all four quadrants. No organomegaly.
EXTREMITIES: Warm. No edema. 
NEUROLOGIC: Alert. Calm. Conversationally appropriate. CN2-12
grossly. Moving all 4 limbs spontaneously. ___ strength
throughout. Normal sensation.
PSYCHIATRY: Patient calm without agitation, linear, no SI/HI

 
Pertinent Results:
ADMISSION LABS:
===========================
___ 10:14PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 10:14PM URINE  HOURS-RANDOM
___ 10:14PM URINE  HOURS-RANDOM
___ 10:14PM URINE  HOURS-RANDOM
___ 10:14PM URINE  UHOLD-HOLD
___ 10:14PM URINE  GR HOLD-HOLD
___ 10:14PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:30PM   GLUCOSE-74 UREA N-16 CREAT-0.7 SODIUM-140 
POTASSIUM-4.3 CHLORIDE-103 TOTAL CO2-24 ANION GAP-13
___ 02:30PM   estGFR-Using this
___ 02:30PM   CALCIUM-9.1 PHOSPHATE-4.2 MAGNESIUM-1.8
___ 02:30PM   WBC-10.3* RBC-5.33 HGB-14.9 HCT-45.6 MCV-86 
MCH-28.0 MCHC-32.7 RDW-13.2 RDWSD-40.9
___ 02:30PM   NEUTS-49.9 ___ MONOS-9.8 EOS-5.4 
BASOS-0.4 IM ___ AbsNeut-5.16 AbsLymp-3.53 AbsMono-1.01* 
AbsEos-0.56* AbsBaso-0.04
___ 02:30PM   PLT COUNT-130*
___ 02:30PM   D-DIMER-239

PERTINENT LABS:
============================
___ 02:30PM BLOOD Plt ___
___ 05:30AM BLOOD Plt ___
___ 05:58AM BLOOD Plt ___
___ 04:39AM BLOOD Plt ___
___ 02:30PM BLOOD WBC-10.3* RBC-5.33 Hgb-14.9 Hct-45.6 
MCV-86 MCH-28.0 MCHC-32.7 RDW-13.2 RDWSD-40.9 Plt ___

DISCHARGE LABS:
============================
___ 04:39AM BLOOD WBC-8.6 RBC-5.06 Hgb-14.2 Hct-43.8 MCV-87 
MCH-28.1 MCHC-32.4 RDW-13.2 RDWSD-41.1 Plt ___
___ 04:39AM BLOOD Glucose-81 UreaN-14 Creat-1.0 Na-142 
K-4.3 Cl-107 HCO3-25 AnGap-10

MICRO:
============================
___ 11:24 am URINE      Source: ___. 

                            **FINAL REPORT ___

   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 
           (Reference Range-Negative). 
      Performed by Immunochromogenic assay. 
      A negative result does not rule out infection due to other 
L.
      pneumophila serogroups or other Legionella species. 
Furthermore, in
      infected patients the excretion of antigen in urine may 
vary. 

IMAGING:
=============================
CXR (___):
"IMPRESSION:  
Bilateral patchy airspace opacities are suspicious for 
multifocal atypical 
infection. Pulmonary edema is also possible, but less favored 
given lack of enlargement of the cardiac silhouette and pleural 
effusions."

CT CHEST (___):
"IMPRESSION: 
1. Diffuse irregularity of the bronchial tree with traction 
bronchiectasis in the left upper lobe.  Diffuse reticulation 
throughout the lungs. Findings could reflect fibrotic NSIP or 
chronic sequelae of hypersensitivity pneumonitis.  No prior 
chest CTs available for comparison. Patient appears to be status 
post right upper lobe and lower lobe VATS wedge resections. 
Therefore correlation with findings on pathology is recommended. 

2. Patchy peribronchial consolidative opacities in the bilateral 
upper lobes could represent superimposed pneumonia.  Clinical 
correlation is recommended. 
3.  Trace pneumomediastinum is likely related to patient's 
interstitial lung disease. 
4. Mild mediastinal and bilateral hilar lymphadenopathy."

PROCEDURES/PATHOLOGY:
==============================
NONE 

 
Brief Hospital Course:
Mr. ___ is a ___ gentleman with a history of bipolar 
disorder and hypersensitivity pneumonitis who presented with 
acute dyspnea and cough in the setting of progressively 
worsening dyspnea over the last ___s concern for 
medication non-compliance for his bipolar disease. He reported 
that he was exposed to a brush fire approximately 3mo prior with 
progressive worsening SOB with exertion and eventually at rest 
since that event, but on the day prior to admission, that SOB 
increased significantly and he developed a cough productive of 
sputum. Based upon CXR and leukocytosis, there was concern for 
CAP that was treated with doxycycline (no QT prolongation). CT 
demonstrated concern for diffuse irregularity of the bronchial 
tree and potential superimposed pneumonia c/w known 
hypersensitivity pneumonitis, which has been followed at ___. 
The patient's SOB and cough improved on doxycycline. Steroids 
were deferred in the setting of concern for potential manic 
episode. Psych was consulted and they started him on quetiapine 
300mg PO QHS. He was placed on ___ and will be discharged 
to inpatient psychiatry with plan for pulmonary ___ in 
1mo.

TRANSITIONAL ISSUES:
===========================
[ ] Medications STARTED: doxycycline 100mg PO BID (5 doses 
remaining), benzonatate 100mg PO TID prn cough, quetiapine 
fumaratate 300mg PO QHS
[ ] Please contact medicine service if he has any worsening 
pulmonary symptoms (worsening dyspnea at rest or on exertion, 
hemoptysis, etc.) or concern for worsening infection (new fever, 
hypoxemia, etc.)
[ ] Insurance: Patient needs insurance prior to making 
appointment with pulmonologist for 1mo. Social work was 
consulted on day of discharge, but they have NOT seen him yet
[ ] Pulmonary: CAP being treated with 5d course of doxycycline, 
but concern for potential worsening of hypersensitivity 
pneumonitis. Would likely benefit from PFTs and further 
evaluation of hypersensitivity pneumonitis. As above, steroids 
deferred for now
[ ] Psych: Continue management of bipolar
[ ] PCP: ___ thrombocytopenia with repeat CBC

#CAP, hypersensitivity pneumonitis:
Chest x-ray on the day of admission demonstrated patchy 
bilateral airspace opacities concerning for multifocal atypical 
pneumonia and he had an elevated WBC. He was started on 
doxycycline as it had lower risk of QT prolongation, and he 
would likely need antipsychotic medications. Ceftriaxone was not 
prescribed as this community acquired pneumonia could likely 
have been treated in the outpatient setting, but he required 
hospitalization for medication non-compliance for his BPD and 
was placed on a ___. CT chest was obtained as 
hypersensitivity pneumonitis history was unknown on admission, 
and it showed concern for ILD with superimposed pneumonia. In 
addition to a CAP, there is concern for flare of his 
hypersensitivity pneumonitis in the setting of brush fire 
exposure, but steroids were held in the setting of a potential 
manic episode and he has been saturating well at room air with 
improving dyspnea and cough. Pulmonology was consulted, but 
after they reviewed his outside record, they recommended 1mo 
___ with pulmonologist at ___ and agreed with plan for 
avoiding steroids. He will be discharged to psychiatry for 
management of his bipolar disorder. Per scheduling, he will need 
to obtain insurance prior to following up with outpatient 
pulmonary ___ in 1mo.

#BPD: Patient with known history of BPD and concern for 
medication non-compliance. Initially started on olanzapine 2.5mg 
BID, but transitioned to Seroquel 300mg PO QHS standing plus an 
additional 50mg PO Q8Hr prn anxiety/agitation. 

#Thrombocytopneia: Patient with thrombocytopenia that was stable 
between 135 to 114 on discharge. Urine legionella negative, LFTs 
normal. Recommend CBC ___ to continue to monitor.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN Cough  
2.  Doxycycline Hyclate 100 mg PO BID Duration: 5 Doses  
3.  QUEtiapine Fumarate 300 mg PO QHS  
4.  QUEtiapine Fumarate 50 mg PO Q8H:PRN anxiety/agitation  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnosis:
Community Acquired Pneumonia

Secondary Diagnosis:
Thrombocytopenia
Hypersensitivity Pneumonitis
Bipolar disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear,  
 
It was a pleasure taking part in your care here at ___!  

Why was I admitted to the hospital?  
- You were admitted for shortness of breath and cough 
 
What was done for me while I was in the hospital?  
- You were treated with antibiotics to help with your pneumonia
- You had an imaging study that was consistent with your history 
of known lung disease (hypersensitivity pneumonitis) for which 
you follow at ___
- You were given a cough medication to help with your cough
- Your medications were changed for your bipolar disease

What should I do when I leave the hospital?  
- You should continue to take your medications as prescribed
- You should ___ with your pulmonologist at ___ 
___ within a month
- You should keep all other appointments as scheduled

Sincerely,  
Your ___ Care Team  
 
Followup Instructions:
___